US20010041700A1
(b) 4-(5-Chloro-1H-benzoimidazol-2-yl)-phenylamine
In 500 mL round bottom flask was suspended 5-Chloro-2-(4-nitro-phenyl)-1H-benzoimidazole (4.23 g, 13.66 mmol) in AcOH (30 mL) at 0° C., and to the suspension was added dropwise SnCl2.H2O (9.4 g, 41.66 mmol), in HCl (15 mL). After the addition, the ice bath was removed and the mixture was allowed to stir at room temperature overnight (16 h). The mixture was poured onto ice, and NaOH (50% aq.) was slowly added to pH 12. Then the mixture was extracted with EtOAc (4×150 mL). The combined organic layers were washed with brine, dried over NaSO4 and filtered, the solvent was evaporated to yield the product as an orange oil. The oil was dissolved in EtOAc and washed with HCl (1.0 N, 100 mL) and the product was isolated as HCl salt (2.13 g, 67%).

reactant | 5-Chloro-2-(4-nitro-phenyl)-1H-benzoimidazole | 13.66 mmol, 4.23 g | ClC1=CC2=C(NC(=N2)C2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C13H8ClN3O2
reactant | SnCl2.H2O | 41.66 mmol, 9.4 g | Cl[Sn]Cl.O
solvent | AcOH | 30 mL | CC(=O)O | C2H4O2
solvent | HCl | 15 mL | Cl | ClH
product | 4-(5-Chloro-1H-benzoimidazol-2-yl)-phenylamine | ClC1=CC2=C(NC(=N2)C2=CC=C(C=C2)N)C=C1 | C13H10ClN3
